US09388177B2
4-bromo-3-methoxy-N,N-dimethylbenzamide
Starting with 4-bromo-3-methoxybenzoic acid and dimethyl amine, Int02.06 was prepared analogously to the procedure for the preparation of Int02.05.

reactant | 4-bromo-3-methoxybenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | dimethyl amine | CNC | C2H7N
product | 4-bromo-3-methoxy-N,N-dimethylbenzamide | BrC1=C(C=C(C(=O)N(C)C)C=C1)OC | C10H12BrNO2
